US07544672B2
A solution of but-3-ynyl 4-methylbenzenesulfonate (1.14 g), 2-(piperazin-1-yl)pyrimidine (1.06 g) and diisoproylethylamine (1.24 mL) in 1,2-dichloroethane (6 mL) was heated to reflux overnight. The mixture was concentrated, diluted with sat. aq. NaHCO3 (5 mL) and extracted with DCM (2×50 mL). Drying (Na2SO4) and silica gel flash chromatography (EtOAc/hexane 1:1→1:0) afforded 2-(4-(but-3-ynyl)piperazin-1-yl)pyrimidine (0.60 g).

reactant | but-3-ynyl 4-methylbenzenesulfonate | 1.14 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC#C | C11H12O3S
reactant | 2-(piperazin-1-yl)pyrimidine | 1.06 g | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
reactant | diisoproylethylamine | 1.24 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,2-dichloroethane | 6 mL | ClCCCl | C2H4Cl2
product | 2-(4-(but-3-ynyl)piperazin-1-yl)pyrimidine | 0.60 g | C(CC#C)N1CCN(CC1)C1=NC=CC=N1 | C12H16N4
